US06872515B2
8-2 Synthesis of Sodium Mono(2-ethylhexyl)mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)sulfosuccinate (FS-309)
Mono(2-ethylhexyl)mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)maleate (137.5 g, 0.29 mol), sodium hydrogensulfite (33.2 g, 0.32 mol) and water/ethanol (140 mL, 1/1 (v/v)) were mixed and refluxed for 2 hours with heating. Thereafter, the reaction mixture was added with ethyl acetate (1000 mL), and the organic phase was washed with a saturated sodium chloride aqueous solution. The organic layer was collected, and the organic solvent was evaporated under reduced pressure. The residue was subjected to recrystallization from toluene (800 mL). Upon cooling on an ice bath, crystals deposited. The crystals were finally separated by filtration to obtain the target compound (140 g, yield: 84%), which was colorless and transparent.

reactant | Mono(2-ethylhexyl)mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)maleate | 0.29 mol, 137.5 g | C(C)C(COC(\C(=C/C(=O)[O-])\CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)CCCC
reactant | sodium hydrogensulfite | 0.32 mol, 33.2 g | S(=O)(O)[O-].[Na+]
reactant | water ethanol | 140 mL | O.C(C)O
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
product | Sodium Mono(2-ethylhexyl)mono(3,3,4,4,5,5,6,6,6-nonafluorohexyl)sulfosuccinate | 140 g, yield: 84% | C(C)C(COC(C(CC(=O)[O-])(S(=O)(=O)O)CCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)=O)CCCC.[Na+] | InChI=1S/C18H25F9O7S.Na/c1-3-5-6-11(4-2)10-34-13(30)14(9-12(28)29,35(31,32)33)7-8-15(19,20)16(21,22)17(23,24)18(25,26)27;/h11H,3-10H2,1-2H3,(H,28,29)(H,31,32,33);/q;+1/p-1
